US06479675B1
1.63 g (0.01 mol) of benzofuran-2,3-dione2-oxime (XI-1) in 5 ml of N-methyl-2-pyrrolidinone are stirred with 1.14 g (0.0108 mol) of sodium carbonate at 20° C. for 30 minutes. After the addition of 1.7 g (0.0102 mol) of 2-bromoethyl acetate, stirring is continued at 70° C. for 2 hours. The mixture is poured into 30 ml of water and the product is filtered off. The product is dried to afford 1.57 g (63% of theory) of crystalline 2-(3-oxo-3H-benzofuran-2-ylideneaminooxy)-ethyl acetate (XIV-1).

reactant | benzofuran-2,3-dione2-oxime | 0.01 mol, 1.63 g | O1C(C(C2=C1C=CC=C2)=O)=NO | C8H5NO3
reactant | sodium carbonate | 0.0108 mol, 1.14 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-bromoethyl acetate | 0.0102 mol, 1.7 g | C(C)(=O)OCCBr | C4H7BrO2
reactant | water | 30 ml | O | H2O
solvent | N-methyl-2-pyrrolidinone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(3-oxo-3H-benzofuran-2-ylideneaminooxy)-ethyl acetate | 1.57 g, 63% | C(C)(=O)OCCON=C1OC2=C(C1=O)C=CC=C2 | C12H11NO5
